* C:\users\ani\Documents\LTspice\Draft3.asc
* Generated by LTspice 26.0.2 for Windows.
M1 N001 N003 N012 N001 P35 l=1.8u w=70u
M2 N001 N003 N003 N001 P35 l=1.8u w=70u
M3 N001 N003 N005 N001 P35 l=1.8u w=140u
M4 N001 N002 N002 N001 P35 l=0.9u w=27u
M5 N001 N002 N004 N001 P35 l=0.9u w=27u
M6 N001 N004 Vout N001 P35 l=0.9u w=190u
M7 N005 N007 N013 N001 P35 l=0.3u w=35u
M8 N005 N008 N009 N001 P35 l=0.3u w=35u
M9 N012 N012 N010 N010 N35 l=1.8u w=70u
M10 N011 N011 N010 N010 N35 l=0.9u w=8.6u
M11 N013 N013 N010 N010 N35 l=0.9u w=8.6u
M12 N009 N013 N010 N010 N35 l=0.9u w=8.6u
M13 N014 N012 N010 N010 N35 l=1.8u w=123u
M14 N002 N009 N014 N010 N35 l=0.3u w=10u
M15 N004 N011 N014 N010 N35 l=0.3u w=10u
M16 Vout N011 N010 N010 N35 l=1.8u w=54u
C1 Vout 0 10p
vin- N007 0 0
vin+ N008 0 0 AC 1
V1 N001 0 1.5
V2 N010 0 -1.5
Cc1 N009 N004 30p
C2 N004 N006 30p
R1 Vout N006 500
I1 N003 N011 50µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\ani\AppData\Local\LTspice\lib\cmp\standard.mos
.include p35_models_tt.inc
* Vin-
* Vin+
.ac dec 10 1 1G
.backanno
.end

